US08022062B2
7-Chloro-6-[3-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Succinate
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-[3-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (209 mg, 0.396 mmol) in dichloromethane (10 mL), then add TFA (0.5 mL) dropwise and stir at room temperature overnight. Remove solvents in vacuo then free base using an SCX column, eluting with 7M ammonia in methanol. Concentrate in vacuo, then use a method similar to the General Procedure 2-1 and freeze dry to give the title compound as a solid (140 mg, 70%). MS (ES+) m/z: 388 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-[3-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.396 mmol, 209 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCCN2C(NC1=C2C=CC=C1)=O | C25H30ClN3O3S
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-Chloro-6-[3-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Succinate | 140 mg, 70% | C(CCC(=O)O)(=O)O.ClC1=C(C2=C(CCNCC2)C=C1)SCCCN1C(NC2=C1C=CC=C2)=O | InChI=1S/C20H22ClN3OS.C4H6O4/c21-16-7-6-14-8-10-22-11-9-15(14)19(16)26-13-3-12-24-18-5-2-1-4-17(18)23-20(24)25;5-3(6)1-2-4(7)8/h1-2,4-7,22H,3,8-13H2,(H,23,25);1-2H2,(H,5,6)(H,7,8)
